US06140501
15.13 g of (2-chloroethoxy)acetamide (0.11 mol), 14.6 ml of ethyl piperazine carboxylate (0.1 mol), 23.3 g of sodium carbonate (0.22 mol) and 1.0 g of potassium iodide in 25 ml of toluene are introduced into a round-bottomed flask fitted with a water-cooled condenser and a mechanical stirrer. The mixture is heated at the reflux temperature for 4 hours and is allowed to cool to room temperature. The reaction is continued, still with stirring, for a further 16 hours. 100 ml of isopropanol are added and the solid materials formed are filtered off. The solvent is evaporated from the filtrate under reduced pressure to dryness. The product obtained after evaporation of the solvents is recrystallized from toluene. 21.35 g of ethyl 4-(2-carbamoylmethoxyethyl)piperazine-1-carboxylate are obtained.

reactant | (2-chloroethoxy)acetamide | 0.11 mol, 15.13 g | ClCCOCC(=O)N | C4H8ClNO2
reactant | ethyl piperazine carboxylate | 0.1 mol, 14.6 ml | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | sodium carbonate | 0.22 mol, 23.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | potassium iodide | 1.0 g | [I-].[K+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | ethyl 4-(2-carbamoylmethoxyethyl)piperazine-1-carboxylate | 21.35 g | C(N)(=O)COCCN1CCN(CC1)C(=O)OCC | C11H21N3O4
